US09334263B2
To a solution of tert-butyl 4-(5-bromopyrimidin-2-yl)piperazine-1-carboxylate (12.0 g, 35.0 mmol) and tetrakis(triphenylphosphine)palladium (2.0 g, 1.7 mmol) in THF (200 mL, dry) was added dropwise a solution of benzylzinc(II) bromide in THF (140 mL, 0.5 M, 70 mmol). The reaction mixture was stirred at 70° C. for 4 h under N2, cooled to RT, then diluted with ethyl acetate (300 mL), filtered and concentrated. The residue was purified by silica gel chromatography, eluting with ethyl acetate/petroleum ether=1/20˜1/10, to give -butyl 4-(5-benzylpyrimidin-2-yl)piperazine-1-carboxylate (7.5 g, yield 60%) as a white solid, MS (ES+) C20H26N4O2 requires: 354, found: 355 [M+H]+.

reactant | tert-butyl 4-(5-bromopyrimidin-2-yl)piperazine-1-carboxylate | 35.0 mmol, 12.0 g | BrC=1C=NC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C13H19BrN4O2
reactant | benzylzinc(II) bromide | [Br-].C(C1=CC=CC=C1)[Zn+]
reactant | THF | 200 mL | C1CCOC1 | C4H8O
reactant | THF | 70 mmol, 0.5 M, 140 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 1.7 mmol, 2.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | butyl 4-(5-benzylpyrimidin-2-yl)piperazine-1-carboxylate | 7.5 g, yield 60% | C(C1=CC=CC=C1)C=1C=NC(=NC1)N1CCN(CC1)C(=O)OCCCC | C20H26N4O2
